US09238639B2
(4-Chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(4-chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (132.1 mg), THF (dry) (1.5 mL) and MeOH (1.5 mL) was added 1N NaOH (0.893 mL) at room temperature. The mixture was stirred at 50° C. for 2 h. The mixture was neutralized with 1N HCl. The resulting precipitate was collected by filtration to give a colorless solid. The solid was crystallized from acetone-hexane to give the title compound (87 mg).

reactant | methyl(4-chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 132.1 mg | COC(CC1=C(SC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)C)Cl)C)=O | C20H17ClF3NO3S
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 0.893 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
product | (4-Chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 87 mg | ClC1=CC(=CC2=C1C(=C(S2)C)CC(=O)O)OCC=2C(=NC(=CC2)C(F)(F)F)C | C19H15ClF3NO3S
